data/mechanisms/records/IMS9-EQ9.6b.json
{"mechanism_id": "IMS9-EQ9.6b", "species": [{"species_id": "dimethylheptene_molecular_ion", "mapped_smiles": "[CH2:1][C+:2]([CH3:3])[CH2:4][CH:5]([CH3:6])[CH:7]([1H:8])[CH2:9][CH3:10]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_gamma_h_shifted_ion", "mapped_smiles": "[CH2:1]([1H:8])[C+:2]([CH3:3])[CH2:4][CH:5]([CH3:6])[CH:7][CH2:9][CH3:10]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "pentene_distonic_c5h10_ion", "mapped_smiles": "[CH3:10][CH2:9][CH:7][CH+:5][CH3:6]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "isobutene_neutral", "mapped_smiles": "[CH2:4]=[C:2]([CH3:3])[CH2:1][1H:8]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_molecular_ion", "species_ids": ["dimethylheptene_molecular_ion"]}, {"state_id": "state_distonic", "species_ids": ["distonic_gamma_h_shifted_ion"]}, {"state_id": "state_products", "species_ids": ["pentene_distonic_c5h10_ion", "isobutene_neutral"]}], "steps": [{"step_id": "step_gamma_h_rearrangement", "from_state": "state_molecular_ion", "to_state": "state_distonic", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "reaction_smirks": null, "reversible": false, "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [7, 8]}, "target": {"type": "bond", "atom_maps": [1, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [7, 8]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}]}, {"step_id": "step_i_cleavage", "from_state": "state_distonic", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "reaction_smirks": null, "reversible": false, "electron_moves": [{"source": {"type": "bond", "atom_maps": [5, 4]}, "target": {"type": "bond", "atom_maps": [4, 2]}, "electron_count": 2}]}], "evidence": [{"evidence_id": "evidence_step_rh", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_gamma_h_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 231, "equation": "9.6", "figure": null, "panel": null, "section": "9.1 Hydrocarbons"}, "confidence": 0.8, "curator_note": "The printed 'rH' arrow: the gamma hydrogen (map 8, isotope-tagged [1H:8] so RDKit keeps it as a mapped atom) migrates from C(gamma) (map 7) to the radical-bearing terminal CH2 (map 1), moving the radical site to C(gamma) and leaving the charge untouched on map 2 -- the distonic ion the book draws as structure 3. The caption's condition 'R'' > H' is why the sp2 carbon carries a methyl here: the running text explains that internal branching at the double bond, i.e. an electron-donating alkyl at R'', stabilizes the charge and makes this gamma-H rearrangement specific. ARC COUNT (convention D). Structure 2 (the ionized alkene) draws 2 arcs, both single-barbed fishhooks: one from the odd-electron dot on the terminal CH2 toward the gamma H, one from the C(gamma)-H bond toward that same forming C-H bond. The third hook (the electron left behind on C(gamma)) is NOT drawn and is marked implicit below. LOCALIZATION (convention B): the page draws the ionized double bond as a SINGLE line with '+' printed at the substituted sp2 carbon (map 2) and the dot at the terminal CH2 (map 1), so the precursor is encoded in exactly that localized form rather than as a delocalised pi radical cation. The -e- ionization arrow (structure 1 -> structure 2) is folded into the precursor's charge/radical fields, which is what sibling IMS9-EQ9.1a does for the same -e- arrow in eq 9.1. MS CONTEXT (convention G): the page prints NO ionization or activation conditions for eq 9.6, so EI / 70 eV is the Chapter-9 house default and is a curator assumption, not a source fact. Caution for anyone re-checking this: the sentence just above eq 9.5 ends '...ionization mass spectra of alkenes show allylic cleavages', but its opening words are on the previous page, so that clause must NOT be read as evidence of EI here. precursor_mz 126.1403 is computed from the curator's instantiation (C9H18, minus the electron mass), never read from the page."}, {"evidence_id": "evidence_step_i", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_i_cleavage", "support_type": "textbook_proposed", "locator": {"page": 231, "equation": "9.6", "figure": null, "panel": null, "section": "9.1 Hydrocarbons"}, "confidence": 0.75, "curator_note": "The printed arrow is labelled 'alpha or i' and structure 3 carries THREE arcs that belong to two different channels, so eq 9.6 is split into IMS9-EQ9.6a (alpha) and IMS9-EQ9.6b (i) -- the same treatment eq 9.1 gets in IMS9-EQ9.1a / 9.1b. Both drawn products are printed side by side after 'or'. INDUCTIVE CHANNEL (the single full-headed arrow of structure 3). Charge-driven: the carbenium at map 2 pulls the whole C(beta)-C(alpha) bonding pair into the C4-C2 bond, so C4=C2 forms and the neutral leaving group is isobutene CH2=C(CH3)R''. Book draws this arc with a FULL two-barbed head, hence electron_count 2 and a single move that balances on its own -- nothing is implicit here. The charge MIGRATES to the other fragment: map 5 loses both electrons of the broken bond and becomes the carbenium, while map 7 keeps the odd electron. RESONANCE (convention C): the page prints that ion as 'R-CH=CH-R'' with a '+.' -- McLafferty's shorthand for a pi bond holding only ONE electron, which is not valence-complete read literally. Following the precedent set by this corpus for eq 9.3, it is encoded as the localized distonic form R-C(.)H-C(+)H-R' (radical on map 7, charge on map 5); the drawn one-electron-pi form is the same species."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 126.1403, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_70", "species_id": "pentene_distonic_c5h10_ion", "step_id": "step_i_cleavage", "observed_mz": 70.0777, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "manual_from_scan", "review_status": "unreviewed", "created_at": "2026-07-30T00:00:00Z", "modified_at": "2026-07-30T00:00:00Z"}}
